US07935715B2
To a solution of 834 mg (2.86 mmol) of 2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionic acid ethyl ester in THF (30 mL) were added 552 mg (4.3 mmol) of potassium trimethylsilanolate. The reaction was stirred at room temperature for 3 h. The solvent was removed under reduced pressure. The residue was partitioned between DCM (50 mL) and water (50 mL). The aqueous layer was acidified with 1 M aqueous HCl solution and extracted with DCM (4×50 mL). The combined organic extracts were dried over Na2SO4, filtered and the filtrate concentrated under reduced pressure to afford 661 mg of 2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionic acid.

reactant | 2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionic acid ethyl ester | 2.86 mmol, 834 mg | C(C)OC(C(C)(C)S(=O)(=O)C=1C=NC(=CC1)Cl)=O | C11H14ClNO4S
reactant | potassium trimethylsilanolate | 4.3 mmol, 552 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(6-chloro-pyridine-3-sulfonyl)-2-methyl-propionic acid | 661 mg | ClC1=CC=C(C=N1)S(=O)(=O)C(C(=O)O)(C)C | C9H10ClNO4S
